US04337341
A solution of 3.0 g. of 4a-phenyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine in 10 ml. of 88% formic acid was stirred at 20° C. while 10 ml. of 38% formaldehyde was added dropwise over fifteen minutes. The reaction mixture was then heated at 95° C. for eight hours. After cooling the reaction mixture to 25° C. 100 ml. of 4 N hydrochloric acid was added dropwise over thirty minutes. The aqueous acidic reaction mixture was concentrated under reduced pressure to provide an oily residue. The oil was then dissolved in 100 ml. of water, and the aqueous solution was made basic by the addition of 50 percent aqueous sodium hydroxide solution. The product precipitated out of the aqueous alkaline solution, and was extracted into diethyl ether. The ethereal extracts were combined, washed with water, dried, and the solvent was evaporated under reduced pressure to provide 4a-phenyl-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine as an oil. The oil so formed was dissolved in 150 ml. of diethyl ether. The ethereal solution was stirred at 25° C. while a solution of 10 ml. of 48 percent hydrobromic acid in 10 ml. of ethanol was added dropwise over ten minutes. The product precipitated out of solution and was recovered by filtration. The solid precipitate was recrystallized from diisopropyl ether and isopropanol to afford 2.7 g. of 4a-phenyl-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindinium bromide. M.P. 209°-210° C.

reactant | 4a-phenyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | C1(=CC=CC=C1)C12CCNCC2CCC1 | C14H19N
reactant | formaldehyde | C=O | CH2O
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | formic acid | C(=O)O | CH2O2
product | 4a-phenyl-2-methyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | C1(=CC=CC=C1)C12CCN(CC2CCC1)C | C15H21N
